US07265137B2
(1) Ethyl [4-[3-[2-(2,4-dichlorophenyl)-5-isopropyl-4-oxazolyl]propionyl]-2-methylphenoxy]acetate
The synthetic intermediate of Example 1, namely 3-[2-(2,4-dichlorophenyl)-5-isopropyl-4-oxazolyl]-1-(3-methyl-4-hydroxyphenyl)propan-1-one (105 mg, 0.25 mmol) and potassium carbonate (103 mg, 0.75 mmol) were suspended in acetone (3 mL). Ethyl bromoacetate (0.08 mL, 0.75 mmol) was added to the suspension while cooling with ice. The suspension was allowed to room temperature, and refluxed while heating for 6 hours. Insolubles were filtered, and washed with acetone. Subsequently, the solvent was distilled off. The residue was purified by column chromatography on silica gel with hexane/ethyl acetate (7/1-4/1) to give the subject compound (117 mg) as colorless oil (yield 92%)

reactant | 3-[2-(2,4-dichlorophenyl)-5-isopropyl-4-oxazolyl]-1-(3-methyl-4-hydroxyphenyl)propan-1-one | 0.25 mmol, 105 mg | ClC1=C(C=CC(=C1)Cl)C=1OC(=C(N1)CCC(=O)C1=CC(=C(C=C1)O)C)C(C)C | C22H21Cl2NO3
reactant | potassium carbonate | 0.75 mmol, 103 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Ethyl bromoacetate | 0.75 mmol, 0.08 mL | BrCC(=O)OCC | C4H7BrO2
solvent | acetone | 3 mL | CC(=O)C | C3H6O
product | Ethyl [4-[3-[2-(2,4-dichlorophenyl)-5-isopropyl-4-oxazolyl]propionyl]-2-methylphenoxy]acetate | 117 mg, yield 92% | ClC1=C(C=CC(=C1)Cl)C=1OC(=C(N1)CCC(=O)C1=CC(=C(OCC(=O)OCC)C=C1)C)C(C)C | C26H27Cl2NO5
